US04973353
In 10 ml of acetone, 1.294 g (3 mmol) of 4-[4-chloro-3-[(3-methylbutoxy)methyl]phenyl hydrazono]-2-(2-fluorophenyl)-2-oxazolin-5-one synthesized in the similar way to Synthesis Examples 1-3 was suspended, followed by the addition of 0.6 ml of concentrated ammonia water and 30-minute stirring at room temperature. The resulting solution was made acid by adding 0.6 ml of concentrated hydrochloric acid and further stirred at 50° C. for 30 minutes. Acetone was distilled off and the residue was extracted by adding benzene and water. The organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvents were distilled off to obtain a crude product, and this crude product was purified by subjecting it to silica gel chromatography using hexane/ethyl acetate (1/2, v/v) as developing solvent and recrystallized from ethyl acetate-hexane to obtain 1.062 g (82.3% yield) of 1-[4-chloro-3-[(3-methylbutoxy)methyl]phenyl]-5-(2-flurophenyl)-1H-1,2,4-triazole-3-carboxamide (m.p. 113°-115° C.).

reactant | 4-[4-chloro-3-[(3-methylbutoxy)methyl]phenyl hydrazono]-2-(2-fluorophenyl)-2-oxazolin-5-one | 3 mmol, 1.294 g | ClC1=C(C=C(C=C1)NN=C1N=C(OC1=O)C1=C(C=CC=C1)F)COCCC(C)C | C21H21ClFN3O3
reactant | ammonia water | 0.6 ml | O.N
reactant | hydrochloric acid | 0.6 ml | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | 1-[4-chloro-3-[(3-methylbutoxy)methyl]phenyl]-5-(2-flurophenyl)-1H-1,2,4-triazole-3-carboxamide | 1.062 g, 82.3% yield | ClC1=C(C=C(C=C1)N1N=C(N=C1C1=C(C=CC=C1)F)C(=O)N)COCCC(C)C | C21H22ClFN4O2
